US07468376B2
a) Isonicotinoyl Chloride Hydrochloride
A solution of isonicotinic acid (0.10 g, 0.8 mmol) and thionyl chloride (1 mL) were heated to reflux for 2 h and concentrated. The product obtained was used immediately in the following step.

reactant | isonicotinic acid | 0.8 mmol, 0.10 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
product | Isonicotinoyl Chloride Hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl | InChI=1S/C6H4ClNO.ClH/c7-6(9)5-1-3-8-4-2-5;/h1-4H;1H
